US06017919
4,5-Dipentyloxy-3-hydroxy-2-[2-(4-nitrophenyl)ethyl]-2,3-dihydroisoindol-1-one (1.04 g, 2.2 mmol, 1.0 eq) was dissolved in dichloromethane (20 ml), and triethylsilane (0.70 ml, 4.4 mmol, 2.0 eq) was added. The mixture was stirred for 10 minutes at room temperature. Trifluoroacetic acid (2.2 ml) was added dropwise thereto, and the mixture was further stirred for 4 hours. A saturated aqueous sodium hydrogencarbonate solution (40 ml) was added to this reaction mixture, and the mixture was extracted 3 times with ethyl acetate (30 ml). The organic layers were combined, washed with saturated brine (100 ml) and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure to give 4,5-dipentyloxy-2-[2-(4-nitrophenyl)ethyl]-2,3-dihydroisoindol-1-one (868 mg, 86.8%) as pale-yellow crystals.

reactant | 4,5-Dipentyloxy-3-hydroxy-2-[2-(4-nitrophenyl)ethyl]-2,3-dihydroisoindol-1-one | 2.2 mmol, 1.04 g, 1.0 eq | C(CCCC)OC1=C2C(N(C(C2=CC=C1OCCCCC)=O)CCC1=CC=C(C=C1)[N+](=O)[O-])O | C26H34N2O6
reactant | triethylsilane | 4.4 mmol, 0.70 ml, 2.0 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | Trifluoroacetic acid | 2.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | 40 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4,5-dipentyloxy-2-[2-(4-nitrophenyl)ethyl]-2,3-dihydroisoindol-1-one | 868 mg, 86.8% | C(CCCC)OC1=C2CN(C(C2=CC=C1OCCCCC)=O)CCC1=CC=C(C=C1)[N+](=O)[O-] | C26H34N2O5
